US04254135
Trans-N-(1-cyclohexyl-4-hydroxy-3-pyrrolidinyl)-N-methylbenzamide Hydrochloride.
A solution of trans-1-cyclohexyl-4-methylamino-3-pyrrolidinol (19.8 g) in 200 ml of methylene chloride was cooled to 5° C. and 20 g of powdered, anhydrous potassium carbonate was added. The mixture was stirred and cooled while 14.1 g of benzoyl chloride in 100 ml of methylene chloride was added dropwise. The mixture was allowed to come to room temperature and stirred for 24 hr., then heated at reflux for 5 hrs. The mixture was cooled and extracted with water. The methylene chloride was evaporated and the residue was converted to the hydrochloride and recrystallized twice from isopropyl alcohol, m.p. 184°-186.5° C.

reactant | trans-1-cyclohexyl-4-methylamino-3-pyrrolidinol | 19.8 g | C1(CCCCC1)N1C[C@H]([C@@H](C1)NC)O | C11H22N2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | benzoyl chloride | 14.1 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | Trans-N-(1-cyclohexyl-4-hydroxy-3-pyrrolidinyl)-N-methylbenzamide Hydrochloride | Cl.C1(CCCCC1)N1C[C@H]([C@@H](C1)O)N(C(C1=CC=CC=C1)=O)C | InChI=1S/C18H26N2O2.ClH/c1-19(18(22)14-8-4-2-5-9-14)16-12-20(13-17(16)21)15-10-6-3-7-11-15;/h2,4-5,8-9,15-17,21H,3,6-7,10-13H2,1H3;1H/t16-,17-;/m1./s1
